US09353066B2
2-Chloro-4-(trifluoromethyl)pyrimidine (23 μL, 0.19 mmol) and TsOH—H2O (29.9 mg, 0.157 mmol) were added to a solution of 5-(morpholin-4-yl)biphenyl-3-amine (40 mg, 0.157 mmol) in dioxane (1.5 mL) and then the reaction mixture was heated to 100° C. for 14 hours. The reaction mixture was diluted with ethyl acetate and washed with saturated NaHCO3 (aq) followed by brine. The aqueous layers were extracted with ethyl acetate, then the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) provided N-[5-(morpholin-4-yl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine as a light yellow solid. MS ESI calc'd. for C21H20F3N4O [M+H]+ 401, found 401. 1H NMR (400 MHz, CDCl3): δ 8.66 (d, J=4.9 Hz, 1H); 7.61 (d, J=7.6 Hz, 2H); 7.56 (s, 1H); 7.50-7.34 (m, 4H); 7.23 (s, 1H); 7.05 (d, J=4.9 Hz, 1H); 6.88 (s, 1H); 3.92 (t, J=4.5 Hz, 4H); 3.29 (t, J=4.5 Hz, 4H).

reactant | 2-Chloro-4-(trifluoromethyl)pyrimidine | 0.19 mmol, 23 μL | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | TsOH—H2O | 0.157 mmol, 29.9 mg | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
reactant | 5-(morpholin-4-yl)biphenyl-3-amine | 0.157 mmol, 40 mg | N1(CCOCC1)C=1C=C(C=C(C1)C1=CC=CC=C1)N | C16H18N2O
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-(morpholin-4-yl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine | N1(CCOCC1)C=1C=C(C=C(C1)C1=CC=CC=C1)NC1=NC=CC(=N1)C(F)(F)F | C21H19F3N4O
